US07842715B2
Preparation of N-(4-[{3-(Dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)-2,1,3-benzothiadiazol-4-amine
A mixture of 1-(4-bromobenzoyl)-3-dimethylaminopyrrolidine (40 mg, 0.13 mmol), 4-amino-2,1,3-benzothiadiazole (23 mg, 0.13 mmol), potassium phosphate (27 mg, 0.13 mmol), tris(dibenzylideneacetone)dipalladium(0) (3 mg, 0.002 mmol), and CTC-Q-Phos (6 mg, 0.004 mmol) are heated to 80° C. for 16 h and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by reverse-phase semi-preparative HPLC1 to give the title compound as a white powder (11 mg), identified by HPLC and mass spectral analyses. Retention Time, 1.74 min.; MS [368.6 m/e (M+H)]. 1Semi-preparative HPLC Conditions: A=0.02% TFA in water, B=0.02% TFA in acetonitrile, 10-95% B in 8 min., 34 mL/min, 50° C., 215 nm detection, Waters Xterra™ 20×50 mm column.

reactant | 1-(4-bromobenzoyl)-3-dimethylaminopyrrolidine | 0.13 mmol, 40 mg | BrC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H17BrN2O
reactant | 4-amino-2,1,3-benzothiadiazole | 0.13 mmol, 23 mg | NC1=CC=CC2=NSN=C21 | C6H5N3S
reactant | potassium phosphate | 0.13 mmol, 27 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.002 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CTC-Q-Phos | 0.004 mmol, 6 mg | CC(C)(C)P([C]1[CH][CH][CH][CH]1)C(C)(C)C.C1=CC=C(C=C1)[C]2[C]([C]([C]([C]2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C6=CC=CC=C6.[Fe]
product | N-(4-[{3-(Dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)-2,1,3-benzothiadiazol-4-amine | 11 mg | CN(C1CN(CC1)C(=O)C1=CC=C(C=C1)NC1=CC=CC2=NSN=C21)C | C19H21N5OS
